US07781478B2
[4-(3-Cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenoxy]-acetic acid (40 mg, 0.12 mmol) is suspended in CH2Cl2 (1.65 mmol) and DMF (2 μL). Oxalyl chloride (17 μL, 0.19 mmol) is added. This is stirred at room temperature for 30 minutes. The resulting solution is then pipetted into a stirring solution of S-3-hydroxypyrrolidine (150 μL) and CH2Cl2 (3.0 mL). The mixture is washed with aqueous HCl. The organic layer is dried and concentrated. Purification by silica gel chromatography (3/2 CH2Cl2/acetone) yields 1-ethyl-2-{4-[2-(3-hydroxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-phenyl}-6-methoxy-1H-indole-3-carbonitrile (40 mg, 79%), compound 285 as a white solid.

reactant | [4-(3-Cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenoxy]-acetic acid | 0.12 mmol, 40 mg | C(#N)C1=C(N(C2=CC(=CC=C12)OC)CC)C1=CC=C(OCC(=O)O)C=C1 | C20H18N2O4
reactant | CH2Cl2 | 1.65 mmol | C(Cl)Cl | CH2Cl2
reactant | Oxalyl chloride | 0.19 mmol, 17 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
reactant | DMF | 2 μL | CN(C)C=O | C3H7NO
product | 1-ethyl-2-{4-[2-(3-hydroxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-phenyl}-6-methoxy-1H-indole-3-carbonitrile | 40 mg, 79% | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)C1=CC=C(C=C1)OCC(=O)N1CC(CC1)O | C24H25N3O4
